US04163852
Preparation of 5-(2-hydroxy-5-nitro-benzyl)-6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
A mixture of 6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (6.3 g; 41 mmoles), p-nitro-phenol (5.7 g; 41 mmoles), polyoxymethylene (2.5 g; 83 mmoles) and dioxan (50 cc) is stirred at 80° C. during 4 hours. After concentration in vacuo, the residue is dissolved in ether and then treated with 0.5 equivalent oxalic acid in ethanol solution. The resulting semi-oxalate is filtered, washed with boiling methanol-water (1:3), filtered again and dried (M.p.= 214° C.; yield: 27%).

reactant | 6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 41 mmoles, 6.3 g | CC1CC2=C(CN1)C=CS2 | C8H11NS
reactant | p-nitro-phenol | 41 mmoles, 5.7 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | polyoxymethylene | 83 mmoles, 2.5 g | O(C[*:2])[*:1]
reactant | dioxan | 50 cc | O1CCOCC1 | C4H8O2
reactant | oxalic acid | 0.5 equivalent | C(C(=O)O)(=O)O | C2H2O4
solvent | ethanol | C(C)O | C2H6O
product | 5-(2-hydroxy-5-nitro-benzyl)-6-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | yield: 27% | OC1=C(CN2CC3=C(CC2C)SC=C3)C=C(C=C1)[N+](=O)[O-] | C15H16N2O3S
